US06030969
The crude 4-isopropylphenylacetylene was dissolved in triethylamine (100 mL). 4-iodoisopropylbenzene (12.3 g, 50 mmol), dichlorobis(triphenylphosphine)palladium(II) (0.70 g, 1 mmol), and copper(I) iodide (1.5 g) were added. The reaction was stirred at room temperature for 2 days, heated to reflux for 1 hour, cooled, diluted with hexanes, and filtered. The filtrate was evaporated under reduced pressure. The residue was filtered through a pad of silica gel with hexanes, and the solvent was evaporated to give 11.40 g (87%) of 1,2-bis(4-(2-propyl)phenyl)acetylene.

reactant | 4-isopropylphenylacetylene | C(C)(C)C1=CC=C(C=C1)C#C | C11H12
reactant | 4-iodoisopropylbenzene | 50 mmol, 12.3 g | IC1=CC=C(C=C1)C(C)C | C9H11I
solvent | triethylamine | 100 mL | C(C)N(CC)CC | C6H15N
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 1 mmol, 0.70 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 1.5 g | [Cu]I
product | 1,2-bis(4-(2-propyl)phenyl)acetylene | 11.40 g, 87% | CC(C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(C)C | C20H22
